US08633173B2
[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-morpholin-4-yl-phenyl)-amine was prepared from 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (100.0 mg, 0.3468 mmol) and 4-(3-bromo-phenyl)-morpholine (126.0 mg, 0.5202 mmol) in a manner analogous to Step 2d and was isolated as a yellow solid (0.022 g, 14%). MP=234-236° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.50 (dd, J=6.6, 1.1 Hz, 1H), 8.26-8.22 (m, 2H), 8.10-8.05 (m, 2H), 7.66 (dd, J=7.3, 1.1 Hz, 1H), 7.36 (t, J=2.2 Hz, 1H), 7.25 (t, J=8.0 Hz, 1H), 7.05-6.98 (m, 2H), 6.85 (s, 1H), 6.59 (dd, J=8.3, 1.9 Hz, 1H), 3.91-3.87 (m, 4H), 3.24-3.20 (m, 4H), 3.10 (s, 3H). MS=450 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.3468 mmol, 100.0 mg | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)N | C13H12N4O2S
reactant | 4-(3-bromo-phenyl)-morpholine | 0.5202 mmol, 126.0 mg | BrC=1C=C(C=CC1)N1CCOCC1 | C10H12BrNO
product | [8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-(3-morpholin-4-yl-phenyl)-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCOCC2 | C23H23N5O3S
